US07214674B2
5-(2-(Methanesulphonyloxy)ethoxy)-2-methylquinazoline (D15)
To a solution of 2-(2-methylquinazolin-5-yloxy)ethanol (0.330 g, 1.62 mmol) in dichloromethane (20 mL) and triethylamine (0.34 mL, 2.43 mmol) was added methane sulfonyl chloride (0.14 mL, 1.78 mmol) dropwise. The reaction mixture was allowed to stir at room temperature for 2 h. The reaction mixture was diluted with further dichloromethane and partitioned with saturated NaHCO3 aq. The organic phase was washed with brine, dried (MgSO4) and evaporated in vacuo to give the title compound as a cream solid (0.452 g, 99%).

reactant | 2-(2-methylquinazolin-5-yloxy)ethanol | 1.62 mmol, 0.330 g | CC1=NC2=CC=CC(=C2C=N1)OCCO | C11H12N2O2
reactant | triethylamine | 2.43 mmol, 0.34 mL | C(C)N(CC)CC | C6H15N
reactant | methane sulfonyl chloride | 1.78 mmol, 0.14 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 5-(2-(Methanesulphonyloxy)ethoxy)-2-methylquinazoline | 0.452 g, 99% | CS(=O)(=O)OCCOC1=C2C=NC(=NC2=CC=C1)C | C12H14N2O4S
